Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with a past medical history
of heroin abuse, now in remission, who presented with
hematemesis.

He reports that several days ago he had several episodes of
vomiting. He is unsure what caused the vomiting and is somewhat
vague describing the episodes. He reports no other associated
symptoms and just felt nauseous and unwell. After several
episodes of vomiting he then had two episodes of vomiting bright
red blood mixed with gastric contents. This then resolved and he
did not seek medical care. However, on ___ he had an episode 
of
vomiting bright red blood without any proceeding emesis or dry
heaves. He denies any abdominal pain, blood in his stool, or 
dark
stools/melena. He then presented to ___. Since there was
no GI available over the weekend at ___ he was transferred
to ___ for further management.

Of note, he takes frequent ibuprofen, at least 800mg BID for
tooth pain. This has been chronic and ongoing. He says that his
teeth have been in poor condition for quite some time and he is
unable to afford a dentist.

He has a history of heroin abuse but says that he has been clean
for ___ months. He takes monthly vivitrol.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Heroin abuse, in remission for ___ months per patient
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
ADMISSION EXAM
==============
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Very 
poor
dentition
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
==============
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Very 
poor
dentition
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:34PM BLOOD WBC-10.4* RBC-5.89 Hgb-16.8 Hct-50.2 
MCV-85 MCH-28.5 MCHC-33.5 RDW-13.2 RDWSD-41.2 Plt ___
___ 10:34PM BLOOD Neuts-66.4 ___ Monos-8.0 Eos-1.3 
Baso-0.4 Im ___ AbsNeut-6.93* AbsLymp-2.45 AbsMono-0.83* 
AbsEos-0.14 AbsBaso-0.04
___ 10:34PM BLOOD ___ PTT-31.9 ___
___ 10:34PM BLOOD Glucose-81 UreaN-9 Creat-0.9 Na-142 K-4.2 
Cl-101 HCO3-27 AnGap-14
___ 10:34PM BLOOD ALT-247* AST-97* AlkPhos-100 TotBili-1.0
___ 10:34PM BLOOD Calcium-9.6 Phos-4.3 Mg-2.2
___ 10:34PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 10:34PM BLOOD HCV Ab-POS*

DISCHARGE LABS:
===============
___ 06:55AM BLOOD WBC-9.3 RBC-5.82 Hgb-16.6 Hct-50.3 MCV-86 
MCH-28.5 MCHC-33.0 RDW-13.3 RDWSD-41.8 Plt ___
___ 06:55AM BLOOD Glucose-74 UreaN-12 Creat-1.0 Na-143 
K-4.9 Cl-100 HCO3-29 AnGap-14
___ 06:55AM BLOOD ALT-177* AST-50* AlkPhos-98 TotBili-1.2
___ 06:55AM BLOOD Albumin-4.4 Calcium-9.3 Mg-2.4
___ 06:55AM BLOOD HIV Ab-PND

IMGAING:
========
RUQ US ___: 
Splenomegaly.  Otherwise, unremarkable abdominal ultrasound. 
Gallbladder sludge. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with a past medical history of 
heroin abuse, now in remission, who presented with hematemesis.

# Hematemesis: Pt presented with reports of ___ episodes of 
blood streaked emesis that progressed to blood mixed in with 
vomitus.  Pt unclear of volume of blood.  H/H largely stable on 
admission and pt denied any further n/v, hematemesis since 
admission.  Etiology of hematemesis felt to be M-W tear vs. 
gastritis ___ recent NSAID use.  He was told to hold off on 
further NSAID use for several weeks, abstain from ETOH and to 
take a PPI x4 weeks.  He was seen by GI who did not feel that 
urgent scope was necessary given his normal labs and lack of 
recurrent episodes.

# ELevated LFT's
# Hepatitis C: Pt was noted to have mildly elevated LFT's this 
admission.  Hepatitis serologies were checked and came back 
positive for hepatitis C.  Pt reported no know history of HepC 
positivity but likely contracted the virus while he was active 
using IV drugs.  Pt was counseled extensively to speak with his 
PCP regarding hepatology referral and subsequent treatment.  HCV 
viral load and HIV ab's checked and are pending on discharge.

Transitional:
[ ] Please f/u HIV ab's and HCV viral load
[ ] Referral to hepatology for further discussion of HCV 
treatment if HCV VL elevated

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 800 mg PO Q6H:PRN Pain - Moderate 
2. Vivitrol (naltrexone microspheres) 380 mg injection QMONTH 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Vivitrol (naltrexone microspheres) 380 mg injection QMONTH  
3. HELD- Ibuprofen 800 mg PO Q6H:PRN Pain - Moderate  This 
medication was held. Do not restart Ibuprofen until at least ___ 
weeks after discharge

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematemesis, likely due to gastritis versus ___ tear
Hepatitis C, likely chronic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with vomiting blood.  We found that your blood 
counts were stable and you did not have any further episodes 
while you were here.  This is likely due to irritation of your 
stomach from taking ibuprofen.  Please avoid taking this for ___ 
weeks after discharge and if you do take this in the future, 
please take it with food and avoid drinking any alcohol while 
you are taking this medication.  You can take up to 2 grams of 
Tylenol daily for pain instead.  We are also sending you home 
with an acid blocker.  Please take this for 4 weeks or unless 
otherwise directed by your PCP.

We also found that your liver tests were mildly elevated.  This 
is likely due to hepatitis C.  Please discuss with your PCP 
regarding ___ referral to a liver specialist so you can get this 
treated.

Please return if you have recurrent vomiting of blood, 
intractable abdominal pain, notice your skin or eyes turning 
yellow, or if you have any other concerns.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___